US05716971
2,4-Dibromophenol (25.7 g) and 2-methoxypropene (10 ml) were stirred for one hour at room temperature. To the mixture was added diethyl ether (300 ml). The mixture was cooled at -78° C. under atmosphere of argon. Then, to the resultant mixture, a 1.6M solution of n-butyl lithium haxane solution (70 ml) was added dropwise. The mixture was stirred for one hour while maintaining the temperature. Then, 2-cyano-3-trimethylsilyloxy pyridine (19.1 g) was added dropwise to the reaction mixture. The cooling bath was then removed, and the reaction mixture was stirred for 3 hours while warming the reaction system to room temperature. Then, methanol (10 ml) was added to the reaction system, and the mixture was stirred for several minutes, followed by distilling off the solvent under reduced pressure. To the residue were added methanol (50 ml), THF (tetrahydrofuran) (15 ml) and 2N HCl (60 ml), and the mixture was stirred for 2 hours at room temperature. The resultant mixture was neutralized with sodium hydrogencarbonate, followed by extraction with ethyl acetate. The organic layer was dried (anhydrous magnesium sulfate), then the solvent was distilled off under reduced pressure. The residue was subjected to a silica gel column chromatography, eluting with ethyl acetate/hexane, followed by purification to give 2-(5-bromo-2-hydroxybenzoyl)-3-hydroxypyridine (19.9 g) (Compound A-1). Physical properties and spectrum data of the compound are shown in Table 1 and Table 3.

reactant | 2,4-Dibromophenol | 25.7 g | BrC1=C(C=CC(=C1)Br)O | C6H4Br2O
reactant | 2-methoxypropene | 10 ml | COC(=C)C | C4H8O
reactant | n-butyl lithium | 70 ml | C(CCC)[Li]
reactant | 2-cyano-3-trimethylsilyloxy pyridine | 19.1 g | C(#N)C1=NC=CC=C1O[Si](C)(C)C | C9H12N2OSi
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
product | 2-(5-bromo-2-hydroxybenzoyl)-3-hydroxypyridine | 19.9 g | BrC=1C=CC(=C(C(=O)C2=NC=CC=C2O)C1)O | C12H8BrNO3
